US05840217
a) Synthesis of 5-(4-t-butylphenyl)tetrazole
In a 250 ml round-bottomed flask fitted with reflux condenser, 4.9 g of p-t-butylbenzonitrile, 3.82 g of lithium chloride and 5.85 g of sodium azide and 8.2 g of triethylammonium bromide in 100 ml of DMF are heated at 120° C. for 8 hours. After cooling to room temperature, 100 ml of water are added and the mixture is admixed in an ice bath with dilute hydrochloric acid until no further solid precipitates. The precipitate is filtered off with suction, washed with water and dried. Recrystallization from ethanol/water gives 4.4 g of colorless crystals.

reactant | p-t-butylbenzonitrile | 4.9 g | C(C)(C)(C)C1=CC=C(C#N)C=C1 | C11H13N
reactant | lithium chloride | 3.82 g | [Cl-].[Li+]
reactant | sodium azide | 5.85 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylammonium bromide | 8.2 g | [Br-].C(C)[NH+](CC)CC
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | 5-(4-t-butylphenyl)tetrazole | 4.4 g | C(C)(C)(C)C1=CC=C(C=C1)C1=NN=NN1 | C11H14N4
